US04841076
Synthesis of {[5-chloro-2,3-dihydro-4-oxo-3-phenyl-4H-1-benzopyran-7-yl]oxy}acetic acid
One gram of {[5-chloro-4-oxo-3-phenyl-4H-1-benzopyran-7-yl]oxy}acetic acid was dissolved in 200 ml of methanol while heating, and 50 mg of platinum (IV) oxide was added to the solution. After an equimole of hydrogen was absorbed, the platinum catalyst was removed by filtration. The methanol in the filtrate was removed by distillation, and the residue was recrystallized from chloroform to obtain 0.4 g of the entitled compound having a melting point of 171° to 173° C.

reactant | {[5-chloro-4-oxo-3-phenyl-4H-1-benzopyran-7-yl]oxy}acetic acid | One gram | ClC1=CC(=CC2=C1C(C(=CO2)C2=CC=CC=C2)=O)OCC(=O)O | C17H11ClO5
solvent | methanol | 200 ml | CO | CH4O
catalyst | platinum (IV) oxide | 50 mg | [Pt](=O)=O
product | {[5-chloro-2,3-dihydro-4-oxo-3-phenyl-4H-1-benzopyran-7-yl]oxy}acetic acid | 0.4 g | ClC1=CC(=CC2=C1C(C(CO2)C2=CC=CC=C2)=O)OCC(=O)O | C17H13ClO5
